US07884101B2
To a solution of 4-(2-azepan-1-yl-ethoxy)-3-(4-bromo-2-methyl-2H-pyrazol-3-yl)-phenylamine (0.06 g, 0.1539 mmol) 2.0 mL of DMA was added isopropyl chloroformate (0.021 g, 0.1687 mmol), and the mixture was stirred at ambient temperature overnight. The reaction mixture was diluted to 5.0 mL with DMSO and purified by RP-HPLC. The proper fractions were collected and evaporated to ¼ volume and the aqueous was neutralized with 1N NaOH to a pH 9.0. Next, the product was extracted with ethyl acetate (2×, 30 mL). The pooled organic layer was dried with sodium sulfate, filtered and evaporated to dryness to afford [4-(2-Azepan-1-yl-ethoxy)-3-(4-bromo-2-methyl-2H-pyrazol-3-yl)-phenyl]-carbamic acid isopropyl ester as a colorless solid in 69% yield. LCMS m/z (%)=478 (M+H 79Br, 100), 480 (M+H 81Br, 98). 1H NMR (400 MHz, DMSO-d6) δ: 8.79 (bs, 1H), 8.69 (bs, 1H), 7.59 (s, 1H), 7.34 (d, J=2.62 Hz, 1H), 7.21-7.31 (m, 1H), 7.14 (d, J=9.04 Hz, 1H), 4.02-4.12 (m, 1H), 3.92-4.12 (m, 2H), 3.67 (s, 3H), 2.69-2.78 (m, 2H), 2.53-2.59 (m, 2H), 1.4-1.58 (bs, 8H), 1.26 (d, J=6.82 Hz, 6H).

reactant | 4-(2-azepan-1-yl-ethoxy)-3-(4-bromo-2-methyl-2H-pyrazol-3-yl)-phenylamine | 0.1539 mmol, 2.0 mL, 0.06 g | N1(CCCCCC1)CCOC1=C(C=C(C=C1)N)C=1N(N=CC1Br)C | C18H25BrN4O
reactant | DMA | CC(=O)N(C)C | C4H9NO
reactant | isopropyl chloroformate | 0.1687 mmol, 0.021 g | ClC(=O)OC(C)C | C4H7ClO2
solvent | DMSO | CS(=O)C | C2H6OS
product | [4-(2-Azepan-1-yl-ethoxy)-3-(4-bromo-2-methyl-2H-pyrazol-3-yl)-phenyl]-carbamic acid isopropyl ester | 69% yield | C(C)(C)OC(NC1=CC(=C(C=C1)OCCN1CCCCCC1)C=1N(N=CC1Br)C)=O | C22H31BrN4O3
